US07790737B2
2-Chloro-6-ethylpyridine-3-carbonitrile (500 mg, 3.00 mmol) synthesized by the method described in International Patent Publication WO1997/19078 and N-(cyclopentylmethyl)-N-ethylamine (1.50 g, 11.8 mmol) were mixed, and the mixture was stirred at 100° C. for 8 hours in an argon atmosphere. The mixture was further added with N-(cyclopentylmethyl)-N-ethylamine (0.19 g, 1.49 mmol), and stirred at 100° C. for 8 hours, and then the reaction mixture was azeotroped with toluene. The resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=50:1) to obtain 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylpyridine-3-carbonitrile (484 mg, 63%) as pale yellow oil.

reactant | 2-Chloro-6-ethylpyridine-3-carbonitrile | 3.00 mmol, 500 mg | ClC1=NC(=CC=C1C#N)CC | C8H7ClN2
reactant | N-(cyclopentylmethyl)-N-ethylamine | 11.8 mmol, 1.50 g | C1(CCCC1)CNCC | C8H17N
reactant | N-(cyclopentylmethyl)-N-ethylamine | 1.49 mmol, 0.19 g | C1(CCCC1)CNCC | C8H17N
product | 2-[(cyclopentylmethyl)(ethyl)amino]-6-ethylpyridine-3-carbonitrile | 484 mg, 63% | C1(CCCC1)CN(C1=NC(=CC=C1C#N)CC)CC | C16H23N3
